US04539419
A mixture of 1.73 g of [[8-acetyl-7-[3-(3-bromopropoxy)propoxy]-2-naphthalenyl]oxy]acetic acid methyl ester, 0.89 g of 1-(2,4-dihydroxy-3-propylphenyl)ethanone and 0.79 g of anhydrous potassium carbonate in 33 ml of anhydrous acetone and 11 ml of anhydrous dimethylformamide was stirred at reflux for 18 hours. The mixture was filtered and filtrate was concentrated in vacuo to an oil. Purification by high pressure liquid chromatography (10% ethyl acetate-toluene) gave 1.2 g (56%) of [[8-acetyl-7-[3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]propoxy]-2-naphthalenyl]oxy]acetic acid methyl ester.

reactant | [[8-acetyl-7-[3-(3-bromopropoxy)propoxy]-2-naphthalenyl]oxy]acetic acid methyl ester | 1.73 g | COC(COC1=CC2=C(C(=CC=C2C=C1)OCCCOCCCBr)C(C)=O)=O | C21H25BrO6
reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 0.89 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | potassium carbonate | 0.79 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 33 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 11 ml | CN(C=O)C | C3H7NO
product | [[8-acetyl-7-[3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]propoxy]-2-naphthalenyl]oxy]acetic acid methyl ester | 1.2 g, 56% | COC(COC1=CC2=C(C(=CC=C2C=C1)OCCCOCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)C(C)=O)=O | C32H38O9
